US07425568B2
2-[2-(2,4-Difluorophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 720 mg of 2-(2,4-difluorophenyl)chroman-6ol. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (d, 1H, J 3.0 Hz), 8.60 (dd, 1H, J 9.0, 3.0 Hz), 7.61 (m, 1H), 7.31 (m, 1H), 7.21 (d, 1H, 9.0 Hz), 7.17 (m, 1H), 7.02 (d, 1H, J 2.9 Hz), 6.97 (dd, 1H, J 8.9, 2.9 Hz), 6.91 (d, 1H, 8.9 Hz), 5.34 (dd, 1H, J 9.9, 2.0 Hz), 3.03 (m, 1H), 2.78 (m, 1H), 2.17 (m, 1H), 2.07 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(2,4-difluorophenyl)chroman-6ol | 720 mg | FC1=C(C=CC(=C1)F)C1OC2=CC=C(C=C2CC1)O | C15H12F2O2
product | 2-[2-(2,4-Difluorophenyl)chroman-6-yloxy]-5-nitropyridine | FC1=C(C=CC(=C1)F)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H14F2N2O4
